US05470993
Step 3: Preparation of lithium 1,3-dimethyl-4,5,6,7-tetrahydroindenide
7,9 dimethylbicyclo-[4.3.0]-nona-1(6),7-diene (5.0 g, 33.5 mmol) was added to 100 mL of pentane. To this solution nBuLi (2.7M, 13 mL) was added dropwise, and the mixture was stirred for 12 hours. The resulting white precipitate was collected via filtration, washed with pentane and dried under reduced pressure to give 5.02 g (97 percent) of product.

reactant | 7,9 dimethylbicyclo-[4.3.0]-nona-1(6),7-diene | 33.5 mmol, 5.0 g | CC=1C=2CCCCC2C(C1)C | C11H16
reactant | nBuLi | 2.7M, 13 mL | [Li]CCCC
solvent | pentane | 100 mL | CCCCC | C5H12
product | lithium 1,3-dimethyl-4,5,6,7-tetrahydroindenide | 5.02 g, 97 percent | C[C-]1C=C(C=2CCCCC12)C.[Li+] | InChI=1S/C11H15.Li/c1-8-7-9(2)11-6-4-3-5-10(8)11;/h7H,3-6H2,1-2H3;/q-1;+1
